US06048864
(a) Methyl 3,4-dimethoxy -2-isopropyloxy-6-nitrobenzoate
2-Iodopropane (0.5 ml, 0.005 mol) was added to a suspension of methyl 3,4-dimethoxy-2-hydroxy-6-nitrobenzoate (1 g, 0.0039 mol) and sodium carbonate (1.6 g, 0.015 mol) in dimethylformamide (15 ml) and the reaction stirred at 60° C. for 2 hours. On cooling, the reaction was concentrated under reduced pressure and the residue partitioned between ethyl acetate (25 ml) and water (25 ml). The aqueous layer was further extracted with ethyl acetate (2×25 ml), the combined organic extracts dried (MgSO4), filtered and evaporated under reduced pressure to give the subtitle compound as a crystalline solid (1.1 g, 74%). 1H-NMR (CDCl3): δ=1.28 (6H, d), 3.94 (9H, m), 4.72 (1H, m), 7.49 (1H, s).

reactant | 2-Iodopropane | 0.005 mol, 0.5 ml | IC(C)C | C3H7I
reactant | methyl 3,4-dimethoxy-2-hydroxy-6-nitrobenzoate | 0.0039 mol, 1 g | COC=1C(=C(C(=O)OC)C(=CC1OC)[N+](=O)[O-])O | C10H11NO7
reactant | sodium carbonate | 0.015 mol, 1.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | Methyl 3,4-dimethoxy -2-isopropyloxy-6-nitrobenzoate | 1.1 g, 74% | COC=1C(=C(C(=O)OC)C(=CC1OC)[N+](=O)[O-])OC(C)C | C13H17NO7
